Name:  ___                 Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: NEUROLOGY
 
Allergies: 
Nsaids / Oxycodone
 
Attending: ___
 
Chief Complaint:
Trouble walking
 
Major Surgical or Invasive Procedure:
None
 
History of Present Illness:
The patient is a ___ year old woman with history of obesity and
smoking who is transferred for evaluation of sudden onset
multiple neurologic complaints.

She states that she was last well at 11:30pm on ___. She 
was
reading on her computer when suddenly when she reached for the
mouse, she noticed her right hand would miss the mouse and go to
the right of it. It was as if "it wasn't responding to me". She
then tried using her left hand and it felt similarly clumsy,
however not as severe as the right. She then stood up and walked
to the hallway; she suddenly felt as though her feet were "like
jelly". It was "as though they weren't listening to me and where
I wanted to go". She also endorses numbness in her bilateral
lower extremities but is unable to characterize this further. 
She
felt like she was walking stiffly like a robot. However she was
still able to ambulate and not fall to one side or another,
though she thinks she may have been leaning to the right.

She then walked back to the computer and searched for stroke
symptoms online. She was not satisfied and called for her 
husband
to take her to the hospital. Of note, she reports dizziness 
after
bending down to tie her shoelaces, occurring when she sat back
up. She describes this as lightheadedness and faintness. She
denies sensation of room spinning or movement.

In the ambulance she also noticed she was feeling nauseous and
maybe that her speech was slurred. Upon arrival to ___ she
subsequently vomited x1 and then felt better. Initial evaluation
was concerning for a stroke and NIHSS was 3, but then
spontaneously improved to 1. Decision was made to defer tPA via
telestroke; she was given aspirin 81mg and Plavix 75mg and
transferred here for further evaluation. CT head noncontrast
negative; CTA head/neck with poor timing of flow but no obvious
vessel occlusion.

At time of evaluation, patient reports all of her symptoms have
resolved, including numbness, incoordination, and gait
abnormality.

On neuro ROS, the pt denies headache, loss of vision, blurred
vision, diplopia, dysphagia, vertigo, tinnitus or hearing
difficulty. Denies difficulties producing or comprehending
speech.  Denies focal weakness, numbness, parasthesiae. No bowel
incontinence or retention. She endorses baseline "leaky bladder"
which is stable. 

On general review of systems, the pt denies recent fever or
chills.  No night sweats or recent weight loss or gain. Denies
cough, shortness of breath.  Denies chest pain or tightness,
palpitations.  Denies nausea, vomiting, diarrhea, constipation 
or
abdominal pain.  No recent change in bowel or bladder habits.  
No
dysuria.  Denies arthralgias or myalgias. Denies rash.

 
Past Medical History:
Obesity
Arthritis
 
Social History:
___
Family History:
Mother with HTN, CHF. Father died of colon cancer
 
Physical Exam:
Physical Exam:
Vitals: 97.9 64 116/70 19 98% RA 
General: Awake, cooperative, NAD.
HEENT: NC/AT, no scleral icterus noted, MMM, no lesions noted in
oropharynx
Neck: Supple, no carotid bruits appreciated. No nuchal rigidity
Pulmonary: Lungs CTA bilaterally without R/R/W
Cardiac: RRR, nl. S1S2, no M/R/G noted
Abdomen: soft, NT/ND, normoactive bowel sounds, no masses or
organomegaly noted.
Extremities: No C/C/E bilaterally, 2+ radial, DP pulses
bilaterally.
Skin: no rashes or lesions noted.

Neurologic:

-Mental Status: Alert, oriented x3. Able to relate history
without difficulty. Attentive, able to name ___ backward without
difficulty. Language is fluent with intact repetition and
comprehension. Normal prosody. There were no paraphasic errors.
Pt was able to name both high and low frequency objects. Speech
was not dysarthric. Able to follow both midline and appendicular
commands. Pt was able to register 3 objects and recall ___ at 10
minutes and ___ with category cues. There was no evidence of
apraxia or neglect.

-Cranial Nerves:
II, III, IV, VI:  PERRL 4 to 2mm and brisk. EOMI with few beats
of nystagmus on horizontal endgaze. Normal saccades. VFF to
confrontation.
V: Facial sensation intact to light touch.
VII: No facial droop, facial musculature symmetric.
VIII: Hearing intact to finger-rub bilaterally.
IX, X: Palate elevates symmetrically.
XI: ___ strength in trapezii and SCM bilaterally.
XII: Tongue protrudes in midline.

-Motor: Normal bulk, tone throughout. No pronator drift
bilaterally. No adventitious movements, such as tremor, noted. 
No
asterixis noted.
  Delt Bic Tri WrE FFl FE IO IP Quad Ham TA ___
L  5    ___   ___  5   5    5  5     5     5   5
R  5    ___   ___  5   5    5  5     5     5   5

-Sensory: No deficits to light touch, pinprick, or
proprioception. No extinction to DSS.

-DTRs:
  ___ Tri ___ Pat Ach
L  2  2    2    2   2
R  2  2    2    2   2
Plantar response was flexor bilaterally.

-Coordination: No intention tremor, no dysdiadochokinesia noted.
No dysmetria on FNF or HKS bilaterally.

-Gait: Good initiation. Narrow-based, normal stride and arm
swing. Able to walk in tandem without difficulty. Romberg 
absent.

____________________________________
Discharge exam is unchanged from admission with no neurologic 
deficits. 
 
Pertinent Results:
___ 06:02AM BLOOD WBC-7.8 RBC-4.59 Hgb-14.4 Hct-42.9 MCV-94 
MCH-31.4 MCHC-33.6 RDW-13.9 RDWSD-46.7* Plt ___
___ 06:02AM BLOOD Glucose-84 UreaN-16 Creat-0.8 Na-139 
K-4.3 Cl-104 HCO3-24 AnGap-15
___ 07:30PM BLOOD ALT-16 AST-22 AlkPhos-104 TotBili-0.2
___ 06:02AM BLOOD Calcium-10.0 Phos-3.6 Mg-1.8
___ 07:30PM BLOOD %HbA1c-5.5 eAG-111
___ 07:30PM BLOOD Triglyc-180* HDL-39 CHOL/HD-4.6 
LDLcalc-106
___ 07:30PM BLOOD TSH-0.79
___ 07:30PM BLOOD ASA-NEG Ethanol-NEG Acetmnp-NEG 
Bnzodzp-NEG Barbitr-NEG Tricycl-NEG

___ Brain MRI/A
1.  Study is moderately degraded by motion. 
2.  No acute intracranial abnormality, with no definite evidence 
of acute 
infarct. 
3. Within limits of study, no evidence of dissection  or 
significant luminal 
narrowing. 

___ echo
The left atrium is mildly dilated. No atrial septal defect or 
patent foramen ovale is seen by 2D, color Doppler or saline 
contrast with maneuvers. Normal left ventricular wall thickness, 
cavity size, and global systolic function (3D LVEF = 62%). The 
right ventricular cavity is mildly dilated with normal free wall 
contractility. The ascending aorta is mildly dilated. The aortic 
valve leaflets (3) appear structurally normal with good leaflet 
excursion and no aortic stenosis or aortic regurgitation. The 
mitral valve leaflets are mildly thickened. There is no mitral 
valve prolapse. Mild (1+) mitral regurgitation is seen. There is 
borderline pulmonary artery systolic hypertension. There is no 
pericardial effusion. 

 IMPRESSION: No ASD or PFO. Normal global and regional 
biventricular systolic function. Mild mitral regurgitation. 

 
Brief Hospital Course:
Ms. ___ was admitted to the neurology service for hand 
clumsiness and difficulty walking. Brain MRI/A negative for 
infarct and it is possible that her symptoms represented a TIA. 
She therefore underwent work-up for TIA. 

Echo with no PFO, EF 62%. LDL 106 and started on atorvastatin 
40mg. A1C 5.1. TSH normal. Patient was initiated on ASA 81mg. 

During the hospitalization, she was monitored with telemetry and 
had a few episodes of sinus bradycardia. No other arrhythmias 
detected. She does have notched p waves on EKG, otherwise 
notable for sinus bradycardia. She will be discharged with a 
___ of Hearts Monitor to monitor for arrhythmia. 

She was evaluated by ___ who agreed she was stable for discharge 
to home without services. 

Of note, she was found to have a UTI with >100,000 enterococci, 
awaiting speciation. She was started on macrobid as an 
outpatient to continue x 7 days. Speciation should be followed 
up by PCP.

TRANSITIONAL ISSUES:
1. Start atorvastatin 20mg daily and aspirin 81mg daily
2. ___ of hearts monitor to be worn and discussed at neurology 
follow-up.
3. Follow-up speciation of urine culture, on macrobid
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. This patient is not taking any preadmission medications

 
Discharge Medications:
1. Aspirin 81 mg PO DAILY 
RX *aspirin 81 mg 1 tablet(s) by mouth daily Disp #*30 Tablet 
Refills:*3
2. Atorvastatin 20 mg PO QPM 
RX *atorvastatin 20 mg 1 tablet(s) by mouth daily Disp #*30 
Tablet Refills:*3
3. Nitrofurantoin Monohyd (MacroBID) 100 mg PO Q12H Duration: 7 
Days 
RX *nitrofurantoin monohyd/m-cryst [Macrobid] 100 mg 1 
capsule(s) by mouth twice a day Disp #*14 Capsule Refills:*0

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
TIA

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Ms. ___,

You were admitted to the neurology service for concern of a 
transient ischemic attack (TIA) or a mini-stroke. Your brain 
imaging was normal, but your symptoms may have been due to a 
blood clot to the brain that moved before it could cause changes 
to your brain. You had high cholesterol and were started on a 
medication called atorvastatin as well. You should take aspirin 
81mg daily and follow-up with a neurologist and your PCP ___ 
2 weeks. 

You were also found to have a urinary tract infection and will 
be started on an antibiotic
 
Followup Instructions:
___